US07026518B2
5-[(1E)-2-(3,4-dihydroxyphenyl)vinyl]-benzene1,2,3-triol, 1
Demethylation: The 1-(3,4-dimethoxyphenyl)-2-(3,4,5-trimethoxyphenyl) ethylene (1.3 g) on demethylation with pyridine hydrochloride (7 g) under the conditions noted in example 1 gave 1, pp. 222–224° C.; IR (KBr) νmax 3450, 3338, 1608, 1535, 1449, 1320, 1177, 1119, 1035, 956, 848, 797 cm−1; 1H NMR (CH3OD, 400 MHz) δ 6.76 (1H, s), 6.61 (1H, d, J=8.0 Hz), 6.55 (1H, d, J=16.0 Hz), 6.54 (1H, d, J=8.0 Hz), 6.50 (1H, d, J=16.0 Hz), 6.33 (2H, s).

reactant | 1-(3,4-dimethoxyphenyl)-2-(3,4,5-trimethoxyphenyl) ethylene | 1.3 g | COC=1C=C(C=CC1OC)C=CC1=CC(=C(C(=C1)OC)OC)OC | C19H22O5
reactant | pyridine hydrochloride | 7 g | Cl.N1=CC=CC=C1
reactant | KBr | [K+].[Br-]
product | 5-[(1E)-2-(3,4-dihydroxyphenyl)vinyl]-benzene1,2,3-triol | OC=1C=C(C=CC1O)/C=C/C=1C=C(C(=C(C1)O)O)O | C14H12O5
